US04758563
A three liter, three necked round bottom flask was equipped with a thermometer, magnetic stirrer, argon inlet and outlet adapters and a one liter addition funnel containing 922 ml of 1.0 molar BH3.THF. 1-Methyl cyclohexanecarboxylic acid (119.2 g; 0.84 m) was added to the reaction vessel and dissolved in 100 ml of THF. The reaction mixture was cooled with an ice bath to 5° C. and the BH3.THF was added dropwise over 25 min maintaining the temperature between 5°-15° C. After the addition was complete, the ice bath was removed. After about five min, the reaction exothermed and foamed violently. A much slower addition rate and constant cooling should help to avoid this exotherm. The reaction was allowed to stir for two hr at RT under nitrogen, then 150 ml of methanol was added cautiously. When the foaming ceased, the reaction was concentrated in vacuo using low heat and the residue was treated with 100 ml of 5% acetic acid. After stirring for thirty min, the reaction was transferred to a one liter separatory funnel, diluted with water (slurry dissolved) and extracted three times with ether. The combined ether extracts were washed twice with saturated sodium bicarbonate, twice with brine, dried over anhydrous magnesium sulfate, filtered through celite and concentrated in vacuo (low heat) to give 79.09 g of a clear water-white oil. The oil was distilled on a Kugelrohr apparatus at 75°-130° C. (25 mm of Hg). Most distilled at 90° C. to give 72.11 g of 1-methyl-1-cyclohexylmethanol.

reactant | BH3.THF | 1.0 molar, 922 ml | B.C1CCOC1
reactant | 1-Methyl cyclohexanecarboxylic acid | 119.2 g | CC1(CCCCC1)C(=O)O | C8H14O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-methyl-1-cyclohexylmethanol | 72.11 g | CC(O)C1CCCCC1 | C8H16O
